Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history of CAD s/p CABG ___ 
years ago"), AAA repair, recently found to have gastric cancer 
while hospitalized for upper GI bleed (CHA ___, who 
presented to the ___ ED on ___ with chest pain, 
was found to have a troponin I elevation to 10.3, and 
transferred to
___ for management.

Per the patient he began to have substernal chest tightness and 
pressure last night that kept him awake. The pain was not 
related to exertion, and he had no associated shortness of 
breath. He took sublingual nitro x2 with good enough effect to 
fall asleep, though the pain did not resolve completely. He woke 
up the morning of admission feeling weak and overall unwell, and 
decided to have his family call ___.

In the ED initial vitals were: 97.9, 64, 118/65, 100% RA 
EKG: Normal sinus rhythm at 56 bpm. Normal axis and intervals. 
No
ST elevations.
Labs/studies notable for:
- Troponin t: 0.9
- proBNP: 5300 
- Creatinine: 1.3
- Hgb 10.5/Hct 34.2
- UA negative
- Guaiac negative
- CXR negative for acute cardiopulmonary process, sternotomy 
wires visible
Patient was given:  Aspirin 324mg

Vitals on transfer: 98.5, 68, 111/46, 99% RA 

On the floor, patient denies further chest pain. He has not had 
any SOB, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope, or presyncope.

REVIEW OF SYSTEMS:  
On further review of systems, he denied any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
myalgias, joint pains, cough, or hemoptysis, recent fevers, 
chills, or rigors. All of the other review of systems were 
negative.  
 
Past Medical History:
- Hypertension
- CABG for 3VD per history
- Hearing loss, bilateral
- Diverticulitis
- Skin cancer
- AAA repair
 
Social History:
___
Family History:
Father: Heart disease
Mother: ___
 
Physical ___:
ADMISSION EXAM
===============
VITALS: ___ 1552 Temp: 98.5 PO BP: 119/68 HR: 69 RR: 18 O2
sat: 99% 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate. Appears younger than stated age.
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no pallor or
cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple, no JVD.  
CARDIAC: RRR, normal S1, S2. Soft systolic murmur.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Radial pulses 2+ bilaterally, DPs 1+.

DISCHARGE EXAM
==============
Temp: 98.7 (Tm 99.0), BP: 93/36 (93-112/36-58), HR: 54 (54-69), 
RR: 14 (___), O2 sat: 95% (92-96), O2 delivery: Ra
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate. Appears younger than stated age.
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no pallor or 
cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple, no JVD.  
CARDIAC: RRR, normal S1, S2. Soft systolic murmur.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Radial pulses 2+ bilaterally, DPs 1+. 
 
Pertinent Results:
===================
ADMISSION LABS
===================
___ 11:49AM   GLUCOSE-112* UREA N-16 CREAT-1.3* SODIUM-142 
POTASSIUM-4.8 CHLORIDE-103 TOTAL CO2-26 ANION GAP-13
___ 11:49AM   CALCIUM-9.2 PHOSPHATE-3.2 MAGNESIUM-1.8
___ 11:49AM   WBC-7.9 RBC-3.50* HGB-10.5* HCT-34.2* MCV-98 
MCH-30.0 MCHC-30.7* RDW-16.0* RDWSD-55.9*
___ 11:49AM   NEUTS-63.0 ___ MONOS-14.6* EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-4.96 AbsLymp-1.63 AbsMono-1.15* 
AbsEos-0.04 AbsBaso-0.03
___ 11:49AM   PLT COUNT-177

___ 11:49AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG

___ 11:49AM   CK-MB-64* proBNP-5300*
___ 11:49AM   cTropnT-0.90*
___ 08:15PM   CK-MB-36* cTropnT-1.17*
===================
PERTINENT RESULTS
===================
LABS
===================
___ 08:20AM BLOOD CK-MB-32* cTropnT-1.62*
___ 12:50PM BLOOD CK-MB-27* cTropnT-1.73*
___ 08:10AM BLOOD CK-MB-8 cTropnT-1.98*

===================
IMAGING/STUDIES
===================
TTE (Complete) Done ___ at 3:10:46 ___ 
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses and cavity size 
are normal. There is mild regional left ventricular systolic 
dysfunction with basal inferior/septal akinesis (PDA territory). 
The remaining segments contract normally (LVEF = 40%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. There are 
three aortic valve leaflets. There is no aortic valve stenosis. 
Mild (1+) aortic regurgitation is seen. The aortic regurgitation 
jet is eccentric, directed toward the anterior mitral leaflet. 
Mild (1+) mitral regurgitation is seen. Moderate to severe [3+] 
tricuspid regurgitation is seen. There is no pericardial 
effusion. 

 IMPRESSION: Mild regional left ventricular systolic 
dysfunction, c/w CAD. Mild aortic and mitral regurgitation. 
Moderate to severe tricuspid regurgitation

===
RENAL U.S. Study Date of ___ 10:53 AM 
FINDINGS:    
The right kidney measures 9.0 cm. The left kidney measures 8.6 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally.  Two simple cysts are 
identified arising from interpolar region of the right kidney 
measuring up to 1.6 cm. 
  
Evaluation of the bladder is limited by underdistention.  There 
may be mild trabeculation of the bladder wall. 
  
IMPRESSION:  No hydronephrosis identified. 

===================
DISCHARGE LABS
===================
___ 08:00AM BLOOD Glucose-101* UreaN-24* Creat-1.6* Na-141 
K-4.0 Cl-103 HCO3-27 AnGap-11
___ 08:00AM BLOOD Calcium-8.2* Phos-3.2 Mg-1.9
___ 08:00AM BLOOD WBC-5.6 RBC-3.03* Hgb-9.1* Hct-29.3* 
MCV-97 MCH-30.0 MCHC-31.1* RDW-16.1* RDWSD-57.1* Plt ___
___ 08:00AM BLOOD Plt ___

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with history of CAD s/p 
CABG, AAA repair, and recent upper GI bleed secondary to a newly 
discovered gastric mass, who presented to ___ with one 
day of progressively worsening chest pain, found to have 
troponin elevation, and transferred to ___ for management of 
NSTEMI.

ACUTE ISSUES
============
#NSTEMI
Patient presented with chest pain relieved by SL nitro and found 
to have troponin T 0.9 on arrival to ___ ED. EKG was without 
signs of ischemia. Given recent GI bleed, initial concern was 
for acute blood loss, however patient was normotensive, 
asymptomatic, and H/H on admission appeared similar to if not 
elevated from H/H at discharge from ___ in late ___. 
Spoke extensively with patient and family regarding bleeding 
risk, and all agreed that benefit of anticoagulating for NSTEMI 
outweighed the risk of GI bleed. He was treated with heparin for 
48 hours, and started on daily aspirin 81mg, high-intensity 
statin, metoprolol, and a nitrate for cardioprotection. 

#Congestive Heart Failure with Reduced EF (40%)
Echo showed a reduced EF of 40%. Patient was not diuresed as he 
appeared euvolemic on exam, without dyspnea or supplemental O2 
requirement. He on metoprolol for beta-blockade. Defer starting 
___ pending recovery from acute kidney injury.

#Recent upper GI bleed
Patient admitted to ___ recently for UGIB, noted on mesenteric 
angiography on ___ to be related to irregular neovascularity 
of a gastric mass and a small pseudoaneurysm from a distal 
branch of the left gastric artery, which was embolized to good 
effect during that admission. He has had no signs of bleeding 
this admission. BID pantoprazole was continued.

#Gastric mass
"Large, fungating, infiltrative, sessile, submucosal and 
ulcerated, non-circumferential mass with no bleeding and 
stigmata of recent bleeding" was found on the lesser curvature 
of the stomach on EGD at ___ on EGD ___. Per the 
patient and his family, he has outpatient follow-up 

#Acute kidney injury
-Mild increase of Cr from 1.3 on admission to 1.6. No sign of 
obstruction on renal ultrasound. Patient had mild relative 
hypotension (SBP ___ which may have led to mild ATN, as 
patient's urine sodium was 58 and he did not develop oliguria. 
He will be discharged on lower doses of blood pressure 
medications and should have repeat chemistry panel checked as an 
outpatient.

CHRONIC ISSUES
==============
#Glaucoma:
Home dorzolamide/timolol and latanoprost were continued. 

TRANSITIONAL ISSUES
===================
[] Patient should have repeat chemistry panel to evaluate acute 
kidney injury at next PCP appointment schedule ___. 
[] Defer starting ACEi for HFrEF due to acute kidney injury. 
Please consider starting this medication pending stability of 
renal function and blood pressure.
[] Defer starting clopidogrel to outpatient cardiologist given 
recent GI bleed and ongoing GI oncologic evaluation
[] Follow up as planned prior to admission with outpatient GI 
for biopsy
[] Follow up as planned with hematology/oncology for possible 
radiation
[] Discharge Cr: 1.6
[] Discharge weight: 68.9kg (151.9lb)
[] Full code
[] HCP: ___ (son), ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Pantoprazole 40 mg PO Q12H 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Nightly Disp #*30 
Tablet Refills:*0 
3.  Isosorbide Mononitrate (Extended Release) 15 mg PO QHS 
RX *isosorbide mononitrate 30 mg 0.5 (One half) tablet(s) by 
mouth Nightly Disp #*15 Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
5.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  Multivitamins 1 TAB PO DAILY  
8.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain  
9.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary: 
- Non ST Elevation Myocardial Infarction

Secondary:
- Hypertension
- Glaucoma
- Upper GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had chest pain. 
You were found to have had a heart attack. We did an ultrasound 
of your heart and saw that one area was moving slightly less 
than normal, which could be related to the heart attack. Because 
of this abnormality, your heart's pumping function is slightly 
reduced from normal. If you notice increased difficulty 
breathing or swelling in your legs, please see a medical 
professional as soon as you are able.

We treated your heart attack with heparin, a blood thinner, for 
48 hours. We also started several medications that help protect 
the heart muscle when someone has a heart attack, including 
Aspirin, atorvastatin, metoprolol, and isosorbide mononitrate 
(imdur). Because you recently had serious bleeding from your 
stomach, we held off on starting a medicine called Clopidogrel 
(Plavix), which we would also recommend you take when your GI 
doctors feel it is safe. 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- It is very important to take your aspirin every day
- Take all of your other heart medications as prescribed (listed 
below)
- Follow up with your doctors as listed below
- Seek medical attention if you have new or concerning symptoms 
or you develop chest pain, swelling in your legs, abdominal 
distention, or shortness of breath at night
 
It was a pleasure participating in your care. We wish you the 
best!  
-Your ___ Care Team  
 
Followup Instructions:
___